US08222416B2
To a suspension of 1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine (1.54 g, 5.1 mmol) in dry tetrahydrofuran (40 mL) at −78° C. was added n-butyllithium in n-hexane (1.6 M, 6.63 mmol, 4.14 mL) dropwise. The mixture was stirred at −78° C. for 5 min and then treated with cyclopentanecarbaldehyde (9.2 mmol, 1.03 g) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×200 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 25% ethyl acetate/hexanes) afforded 1-(1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol as a light yellow solid (710 mg, 33.6%): LC/MS m/e calcd for C22H26N2O4S [M+H]+ 415.53, observed 415.0.

reactant | 1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine | 5.1 mmol, 1.54 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)COC | C15H14N2O3S
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 6.63 mmol, 1.6 M, 4.14 mL | CCCCCC | C6H14
reactant | cyclopentanecarbaldehyde | 9.2 mmol, 1.03 g | C1(CCCC1)C=O | C6H10O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol | 710 mg, 33.6% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)COC)C(CC2CCCC2)O | C22H26N2O4S
